US08580974B2
A mixture of phosphorus oxychloride (10.58 g) and diethyl ether (50 ml) is stirred at 0° C. for 10 min. Diisopropylformamide (8.91 g) in diethyl ether (20 ml) is then added drop-wise over a period of 10 min. The resulting mixture is then stirred at room temperature for 30 min. The formed precipitate is allowed to settle and the supernatant removed. Dichloromethane (60 mL) is then added to the mixture. Diisopropylamine (6.98 g) in dichloromethane (20 ml) is then added drop-wise at 0° C. over 10 min. The mixture is then warmed at room temperature and stirred for a further 1.5 h. Diethyl ether (30 ml) is added and the resulting precipitate is removed by filtration. The mother liquor is concentrated in vacuo. Acetone (30 ml) is added and the mixture filtered. The mother liquor is then concentrated in vacuo and subsequently is crystallised with diethyl ether (30 ml) to give N,N,N′,N′-tetraisopropylformamidinium chloride (18, R6=iPr, R7=iPr). 1H NMR (DMSO-d6), 7.49 (1H), 4.15-3.95 (4H), 1.33 (12H), 1.31 (12H).

reactant | phosphorus oxychloride | 10.58 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | Diisopropylformamide | 8.91 g | C(C)(C)N(C=O)C(C)C | C7H15NO
reactant | Diisopropylamine | 6.98 g | C(C)(C)NC(C)C | C6H15N
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | Diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | Dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | N,N,N′,N′-tetraisopropylformamidinium chloride | [Cl-].C(C)(C)N(C=[N+](C(C)C)C(C)C)C(C)C | InChI=1S/C13H29N2.ClH/c1-10(2)14(11(3)4)9-15(12(5)6)13(7)8;/h9-13H,1-8H3;1H/q+1;/p-1
